### PR TITLE
[Merged by Bors] - feat: a countable set has dense complement in a nontrivial vector space over a complete normed field

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Cardinality.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+continuum. -/
+theorem continuum_le_cardinal_of_module
+    (𝕜 : Type u) (E : Type v) [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜]
+    [AddCommGroup E] [Module 𝕜 E] [Nontrivial E] : 𝔠 ≤ #E := by
+  have A : lift.{v} (𝔠 : Cardinal.{u}) ≤ lift.{v} (#𝕜) := by
+    simpa using continuum_le_cardinal_of_nontriviallyNormedField 𝕜
+  simpa using A.trans (Cardinal.mk_le_of_module 𝕜 E)
+
+/-- In a topological vector space over a nontrivially normed field, any neighborhood of zero has
+the same cardinality as the whole space. -/
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/Module/Cardinality.lean:55]:
```suggestion
the same cardinality as the whole space.

See also `cardinal_eq_of_mem_nhds`. -/
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
